US08809371B2
Potassium carbonate (35 mg) and a 30% hydrogen peroxide solution (29 μl) were added to an ethanol (1 ml) solution containing (2R)-2-(5-cyano-3-fluoro-6-(quinolin-6-ylamino)pyridin-2-ylamino)-4-methylpentanamide (20 mg), followed by stirring at room temperature for 1 hour. A 30% hydrogen peroxide solution (29 μl) was added to the reaction mixture, followed by stirring at room temperature for 1 hour. Water, sodium chloride, and ethyl acetate were added to the reaction mixture. The organic layer was collected and dried over anhydrous magnesium sulfate, and the solvent was distilled away under reduced pressure. The obtained residue was dissolved in ethyl acetate, and diisopropylether was added. Solid matter was collected by filtration and washed with diisopropylether, and a yellow solid of 6-((2R)-1-amino-4-methyl-1-oxopentan-2-ylamino)-5-fluoro-2-(quinolin-6-ylamino)nicotinamide (8 mg) was thus obtained.

reactant | Potassium carbonate | 35 mg | C([O-])([O-])=O.[K+].[K+]
reactant | hydrogen peroxide | 29 μl | OO | H2O2
reactant | (2R)-2-(5-cyano-3-fluoro-6-(quinolin-6-ylamino)pyridin-2-ylamino)-4-methylpentanamide | 20 mg | C(#N)C=1C=C(C(=NC1NC=1C=C2C=CC=NC2=CC1)N[C@@H](C(=O)N)CC(C)C)F | C21H21FN6O
reactant | hydrogen peroxide | 29 μl | OO | H2O2
reactant | sodium chloride | [Cl-].[Na+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | Water | O | H2O
solvent | ethanol | 1 ml | C(C)O | C2H6O
product | 6-((2R)-1-amino-4-methyl-1-oxopentan-2-ylamino)-5-fluoro-2-(quinolin-6-ylamino)nicotinamide | 8 mg | NC([C@@H](CC(C)C)NC1=NC(=C(C(=O)N)C=C1F)NC=1C=C2C=CC=NC2=CC1)=O | C21H23FN6O2
